US07153865B2
2-Chloro4-(3,4-dichlorophenyl)aminoquinoline
Prepared using general procedure 3; 2-Hydroxy-4-(3,4-dichlorophenyl)aminoquinoline (1.5 g, 4.9 mmol) and 9.2 mL of POCl3 were heated to 120° C. for 4 h. Isolation afforded 1.075 g of material (3.32 mmol, 68%). 1H NMR (300 MHz, DMSO): 9.61(s, 1H), 8.40(d, 1H, J=8.07 Hz), 7.82(m, 2H), 7.65(m, 3H), 7.45(dd, 1H, J=8.68, 2.63 Hz), 6.87(s, 1H).

reactant | 2-Hydroxy-4-(3,4-dichlorophenyl)aminoquinoline | 4.9 mmol, 1.5 g | OC1=NC2=CC=CC=C2C(=C1)NC1=CC(=C(C=C1)Cl)Cl | C15H10Cl2N2O
reactant | POCl3 | 9.2 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro4-(3,4-dichlorophenyl)aminoquinoline | 3.32 mmol, 1.075 g, 68% | ClC1=NC2=CC=CC=C2C(=C1)NC1=CC(=C(C=C1)Cl)Cl | C15H9Cl3N2
